Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
codeine / Bactrim / Penicillins / tetanus shot
 
Attending: ___.
 
Chief Complaint:
nausea and vomiting
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
In brief, Ms. ___ is a ___ year old woman with a PMH of 
alcohol abuse and HTN, who comes to the hospital for a 3 month 
history of AM headaches, blurry vision, productive cough, and 
vomiting. 

Ms. ___ reports that the symptoms first began in late 
___. She reports that she wakes up in the morning feeling 
like her head is "full".  Her head fullness is worse when lying 
down and better when sitting up.  She will then start coughing 
and bring up a white frothy sputum. After coughing a lot she 
will vomit. She reports that her vomit will also be white and 
endorse epigastric pain at the midline which typically occurs 
after vomiting.  She describes this pain as "crampy" and 
"spastic" andfrothy.  She denies hematemesis, hemoptysis, or 
bilious vomit.  She does  says that she is not sure what makes 
it better or worse.

At the onset this would occur a few times a week (she estimates 
5).  Her symptoms have now progressed so that this will occur 
more times per week and in the afternoon. She also reports that 
the phlegm has become thicker.

Throughout this time she reports decreased appetite and an 
unintentional weight loss of 14 lbs. Her vision has been blurry, 

worse in the morning, but she also reports that she needs to get 
glasses. She reports some flashing dark spots towards the 
superior portion of her visual field in the AM. 

She denies scleral icterus, pruritis, chest pain, SOB, dysuria, 
RUQ pain, diarrhea, or constipation.  

In the ED her exam was notable for a mildly elevated temperature 
of 101 and elevated bp at 151/112.  Her exam was notable for 
poor visual acuity.  Her labs were notable for a leukocytosis of 
10.3, hgb of 17.3, negative flu, and elevated LFTS (AST:122, 
ALT:55, TBili:1.6). Imaging was notable for negative chest xray, 
global atrophy on NCHCT, RUQUS with liver echotexture c/w 
steatosis and GB not visualized.  She was given IV fluids on 
ondansterone.

She was transferred to the floor where she was hemodynamically 
stable and confirmed the story above.

 
Past Medical History:
HYPERTENSION  
 HEMATURIA  
 SINUSITIS  
 HEMORRHOIDS  
 URETHRAL STRICTURE  
 HYPERLIPIDEMIA  
 ALCOHOL ABUSE  
 DEPRESSION  
 TRANSAMINITIS  
 POLYCYTHEMIA  
 PREMATURE ATRIAL CONTRACTIONS  
 TOBACCO ABUSE  
 HYPERDYNAMIC EJECTION FRACTION (73%)  

 
Social History:
___
Family History:
Mother- CAD, AS  
 Father- lymphoma  
 Sister- CVA  
 Brother- CVA, DM  

 
Physical Exam:
Admission exam
================
Vital Signs: 98.0 119/82 71 18 96 RA  
 General: Alert, oriented, no acute distress  
 HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL.  
 Neck: Supple. JVP not elevated. no LAD  
 CV: Regular rate and rhythm. Normal S1+S2, no murmurs, rubs, 
gallops.  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
 GU: No foley  
 Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
 Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, 2+ reflexes bilaterally, gait 
deferred.  

Discharge exam
===============
VS:  T/Tmax:98.1/98.1 BP:104-133/66-82 ___ O2sat: 
94-97% RA
GENERAL: NAD  
HEENT: AT/NC, EOMI, PERRL, sclera show mild icterus (patient 
notes that this is at baseline), pink conjunctiva, MMM, good 
dentition  
NECK: nontender supple neck, no LAD, no JVD  
HEART: RRR, S1/S2, no murmurs appreciated 
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles
ABDOMEN: nondistended, hypoactive bowel sounds, nontender in all 
quadrants, no rebound/guarding, liver edge could not be palpated
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII grossly intact  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes 
 
Pertinent Results:
ADMISSION LABS
=======================
Hematology 
___ 04:45PM BLOOD WBC-10.3* RBC-4.34 Hgb-17.3* Hct-47.7* 
MCV-110* MCH-39.9* MCHC-36.3 RDW-15.0 RDWSD-61.3* Plt ___
___ 04:45PM BLOOD Neuts-69.8 Lymphs-18.8* Monos-10.4 
Eos-0.1* Baso-0.5 NRBC-0.2* Im ___ AbsNeut-7.19* 
AbsLymp-1.93 AbsMono-1.07* AbsEos-0.01* AbsBaso-0.05
___ 07:06AM BLOOD ___ PTT-32.3 ___
___ 04:45PM BLOOD Glucose-112* UreaN-12 Creat-0.9 Na-136 
K-6.3* Cl-96 HCO3-23 AnGap-23*
___ 04:45PM BLOOD ALT-55* AST-122* AlkPhos-87 TotBili-1.6*
___ 04:45PM BLOOD Albumin-4.2
___ 07:06AM BLOOD CRP-6.3*
___ 04:55PM BLOOD Lactate-2.0 K-3.5
___ 07:06AM   calTIBC-260 FERRITIN-1092* TRF-200
___ 07:06AM   TOT PROT-6.0* ALBUMIN-3.5 GLOBULIN-2.5 
CALCIUM-8.8 PHOSPHATE-3.7 MAGNESIUM-1.8 IRON-191*
___ 07:06AM   ALT(SGPT)-39 AST(SGOT)-59* ALK PHOS-80 TOT 
BILI-1.6*
___ 07:06AM BLOOD HCV Ab-Negative
___ 07:06AM   IgM HAV-Negative

Urine 
___ 08:05PM URINE Color-Yellow Appear-Hazy Sp ___
___ 08:05PM URINE Blood-SM  Nitrite-NEG Protein-30 
Glucose-NEG Ketone-40 Bilirub-SM  Urobiln-4* pH-6.5 Leuks-NEG
___ 08:05PM URINE RBC-3* WBC-5 Bacteri-FEW Yeast-NONE Epi-8
___ 08:05PM URINE CastHy-15*
___ 08:05PM URINE Mucous-FEW

MICRO
==============================================================
RPR pending
BCx pending
Urine culture negative

STUDIES
================================================================
CXR: ___, No acute cardiopulmonary abnormality. 

Liver/Gallbladder US ___
1. Echogenic liver consistent with steatosis. Other forms of 
liver disease 
including steatohepatitis, hepatic fibrosis, or cirrhosis cannot 
be excluded on the basis of this examination. 
2. Nondistended gallbladder with no stones. 
  
NCHCT: ___
1. No acute intracranial process. 
2. Global atrophy. 

CT Thorax ___
IMPRESSION: 
Small bilateral lung nodules, largest measures 0.4 cm, in the 
absence of history of malignancy or inflammatory/infectious 
symptoms, of unlikely significance. No acute abnormalities in 
the chest, abdomen or pelvis. No mass, no adenopathy.

DISCHARGE LABS
==============================================================
___ 06:59AM BLOOD WBC-6.3 RBC-3.63* Hgb-14.4 Hct-40.7 
MCV-112* MCH-39.7* MCHC-35.4 RDW-15.1 RDWSD-61.8* Plt ___
___ 06:59AM BLOOD Glucose-103* UreaN-9 Creat-0.7 Na-140 
K-3.6 Cl-100 HCO3-27 AnGap-17
___ 06:59AM BLOOD Calcium-8.7 Phos-3.8 Mg-1.___ year old female with a PMH of HTN and alcohol abuse who 
presents with 2 months of AM, headaches, vomiting, dizziness, 
and weight loss and cough as well as multiple laboratory 
abnormalities, which are most likely explained by alcohol abuse. 
The patient was admitted to the hospital where her nausea and 
vomiting were controlled with ondasteron and IV fluids. She was 
given omeprazole and Maalox prn for concerns of gastritis. With 
this her clinical presentation improved and she was able to take 
PO food. A contrast CT thorax was done and showed pulmonary 
nodules (largest 0.4 cm) that were not thought to be of 
significance. It was felt that alcoholic gastritis was the most 
likely cause of her symptoms.

Acute issues
#Vomiting, weight loss, and cough
The patient presented with a 2 month history of AM vomiting and 
progressive weight loss associated with a chronic cough. 
Symptoms may represent component of gastritis in the setting of 
alchohol abuse (in light of under-reported drinking in past as 
well as characteristic transaminitis and macrocytosis). Other 
etiologies considered included chronic bronchitis (given her 
report of a productive cough lasting >3months and ___ year 
smoking history) and malignancy (given weight loss and 
non-specific symptoms). She was given Zofran and IV fluids for 
nausea and was placed on omeprazole 40 qd and Maalox prn for 
potential gastritis. Her nausea improved and she was able to 
tolerate PO food. A CT thorax w/and w/out contrast was sent to 
examine for possible malignancy. CT thorax showed some small 
(largest 0.4cm) nodules which were only recommended for follow 
up if clinically indicated. At the time of discharge blood and 
urine cultures had shown NGTD. 

#Mild alcoholic hepatitis
The patient presented with elevated LFTs. Given that AST>3x ALT 
the most likely etiology is ___ her alcohol use. Other 
etiologies include hemochromatosis (possible given elevated Hct 
and ferritin), or HCC (given smoking and drinking history). 
Hepatitis A and C serologies were negative (the patient 
previously had labs showing Hep B immunity) and CT thorax showed 
no signs of malignancy (though had small pulmonary nodules, as 
above). Iron studies were sent and showed ongoing elevation in 
iron and ferritin levels, which should be worked up on an 
outpatient basis.

#Alcohol Abuse
She reports reduced alcohol intake and attending AA meetings. 
She reports that she currently drinks ___ drinks of vodka/day on 
average, but does not drink when she feels nauseous. The most 
she has drunk in a day in the last few months is 1 pt. She 
reports that her last drink was ___ days ago. She was placed on 
a CIWA scale (which was not used) and given 3 doses of 100 mg of 
thiamine as well as a multivitamin. A social work consult was 
placed. The patient endorsed an understanding of the way that 
her alcohol abuse may have contributed to her presentation and 
says that she is motivated to stop.

Chronic Issues
#Polycythemia: Mild, likely related to ongoing cigarette 
smoking. Elevated ferritin is from alcoholic hepatitis.

#Hypertension
The patient presented with longstanding HTN. This was unlikely 
to be contributing to her symptoms as it had been well 
controlled since she was transferred to the floor 
(119-122/73-82). Her hydrochlorothiazide was briefly stopped for 
her potassium to be repleated, but then was continued through 
the rest of her hospitalization.

#Headache and blurry vision
The patient presents with reports of early morning headaches, 
and blurry vision. Most likely etiology at this time is ___ 
dehydration and vomiting, though alternatively the headaches may 
be causing the nausea. Head CT showed no evidence of tumor or 
intracranial process. The patient's neurologic exam remained 
stable throughout her hospitalization and she remained alert and 
oriented.

#Hematuria
Per patient this was a long standing issue but combined with 
polycythemia raises concern for RCC. CT thorax showed no 
evidence of malignancy. This has already been worked up 
extensively on an outpatient basis.

# Allergic rhinitis
She was continued on fluticasone and cetirizine

#Bone mineral density
She was continued on Vitamin D 1000 units PO daily

====================
TRANSITIONAL ISSUES:
=====================
[ ] Pulmonary nodules (largest measuring 0.4cm) found on CT. Not 
believed to be ___ malignancy or infection. Consider ongoing 
screening as clinically indicated. 
[ ] STARTED omeprazole 20mg daily for ___onsider 
trial of H2 blocker as outpatient if symptoms recur.
[ ] Continue to encourage abstinence from alcohol
[ ] f/u SPEP/UPEP

# CONTACT: ___ (son) ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Nicotine Patch 21 mg TD DAILY 
2. Fluticasone Propionate NASAL 1 SPRY NU BID 
3. Aspirin 81 mg PO DAILY 
4. Cetirizine 10 mg PO DAILY 
5. albuterol sulfate 90 mcg/actuation inhalation Q6H:PRN 
6. Hydrochlorothiazide 25 mg PO DAILY 
7. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1.  Aluminum-Magnesium Hydrox.-Simethicone ___ mL PO QID:PRN 
reflux 
RX *alum-mag hydroxide-simeth 200 mg-200 mg-20 mg/5 mL 5 ml by 
mouth four times a day Disp #*360 Milliliter Milliliter 
Refills:*0 
2.  Multivitamins W/minerals 1 TAB PO DAILY 
RX *multivitamin,tx-minerals [Vitamins and Minerals]  1 
tablet(s) by mouth once a day Disp #*30 Tablet Refills:*0 
3.  Omeprazole 20 mg PO DAILY 
RX *omeprazole 20 mg 1 capsule(s) by mouth once a day Disp #*30 
Capsule Refills:*0 
4.  albuterol sulfate 90 mcg/actuation inhalation Q6H:PRN  
5.  Aspirin 81 mg PO DAILY  
6.  Cetirizine 10 mg PO DAILY  
7.  Fluticasone Propionate NASAL 1 SPRY NU BID  
8.  Hydrochlorothiazide 25 mg PO DAILY  
9.  Nicotine Patch 21 mg TD DAILY  
10.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
nausea/vomiting/weight loss, likely alcoholic gastritis

Secondary Diagnoses:
mild alcoholic transaminitis
polycythemia
macrocytosis
alcohol abuse
hypertension
hematuria
allergic rhinitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to admitted to ___ 
___ nausea and vomiting. You were given a medication to 
stop your nausea and fluids which improved your symptoms.  We 
imaged your chest and stomach to make sure that there was 
nothing that we were missing that might be causing your nausea.  
The imaging did not show anything concerning.  It did show some 
small nodules in your lung, that were not thought to be cancer 
or infection. You should discuss these results with your primary 
care doctor. 

We additionally checked labs that showed that your iron and some 
of your liver values were high. You should have this looked into 
as an outpatient. 

We discussed how your symptoms may be caused by your alcohol 
use, and we discussed the importance of avoiding alcohol going 
forward. You were feeling better with the addition of two new 
medications, as well as avoiding alcohol while in the hospital. 

It was a pleasure caring for you,
Your ___ medicine team
 
Followup Instructions:
___